US04699914
(a) 2-methyl-1[4-(2-nitro-1-propenyl)-phenyl]-imidazole
Similar to example 4(a), the reaction is carried out with 66 g 4-(2-methyl-1-imidazolyl)-benzaldehyde (DE-OS No. 33 06 196), 31.7 g nitroethane, 3.2 g β-alanine and 250 ml n-butanol.

reactant | 4-(2-methyl-1-imidazolyl)-benzaldehyde | 66 g | CC=1N(C=CN1)C1=CC=C(C=O)C=C1 | C11H10N2O
reactant | nitroethane | 31.7 g | [N+](=O)([O-])CC | C2H5NO2
reactant | β-alanine | 3.2 g | NCCC(=O)O | C3H7NO2
solvent | n-butanol | 250 ml | C(CCC)O | C4H10O
product | 2-methyl-1[4-(2-nitro-1-propenyl)-phenyl]-imidazole | CC=1N(C=CN1)C1=CC=C(C=C1)C=C(C)[N+](=O)[O-] | C13H13N3O2
